US07157487B2
Oxalyl chloride (1.10 ml, 12.5 mmol) was added to a solution of 1-methylindole-3-carboxylic acid (2.00 g, 11.4 mmol) and DMF (0.18 ml, 2.28 mmol) in methylene chloride (25 ml) and the resulting mixture was stirred for 3 hours at room temperature. The reaction mixture was distilled under reduced pressure to remove the solvent to give 1-methylindole-3-carboxylic acid chloride (2.19 g, 99%) as a pale yellow solid. The resulting 1-methylindole-3-carboxylic acid chloride (752 mg, 3.88 mmol) was added in portions to a solution of ethyl 3-amino-2-chloro-6-pyridylacetate (833 mg, 3.88 mmol) and triethylamine (1.08 ml, 7.77 mmol) in methylene chloride (20 ml) under stirring at 0° C. The reaction mixture was heated under reflux for 8 hours. After cooling to room temperature and addition of water, the mixture was extracted with chloroform. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane-ethyl acetate (2:1, v/v) eluate fractions, ethyl 2-chloro-3-(1-methyl-3-indolylcarbonyl)amino-6-pyridylacetate (859 mg, 60%) was obtained as a yellow solid.

reactant | Oxalyl chloride | 12.5 mmol, 1.10 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-methylindole-3-carboxylic acid | 11.4 mmol, 2.00 g | CN1C=C(C2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | DMF | 2.28 mmol, 0.18 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-methylindole-3-carboxylic acid chloride | 2.19 g, 99% | CN1C=C(C2=CC=CC=C12)C(=O)Cl | C10H8ClNO
